US09079839B2
Synthesis of (S)-2-(benzyloxy-methyl)-3-methyl-butyl bromide
Dissolve (R)-2-(benzyloxy-methyl)-3-methyl butanol (15.6 g, 75 mmol) in N,N-dimethyl formamide (246 ml), add phosphorus oxybromide (22.58 g, 78.75 mmol) in droplets slowly and control the temperature below 50° C. in that process, and then let them to react at 50° C. for 3 hours. Cool down to room temperature, and pour the reactant liquid into water (246 ml) slowly, extract with normal hexane for three cycles, combine the normal hexane layers, wash twice with saturated sodium bicarbonate and saturated sodium chloride respectively, dry the organic layer with anhydrous sodium sulfate, filter, and condense the filtrate so as to obtain 18.1 g of oily matter. Treat the oil matter by reduced pressure distillation to obtain 16.6 g of colorless transparent liquid; the yield is 81.1%, and the chiral purity is ≧99.9%.

reactant | (R)-2-(benzyloxy-methyl)-3-methyl butanol | 75 mmol, 15.6 g | C(C1=CC=CC=C1)OC[C@@H](CO)C(C)C | C13H20O2
reactant | phosphorus oxybromide | 78.75 mmol, 22.58 g | P(=O)(Br)(Br)Br | Br3OP
reactant | water | 246 ml | O | H2O
solvent | N,N-dimethyl formamide | 246 ml | CN(C=O)C | C3H7NO
product | (S)-2-(benzyloxy-methyl)-3-methyl-butyl bromide | 16.6 g, yield is 81.1% | C(C1=CC=CC=C1)OC[C@@H](CBr)C(C)C | C13H19BrO
